** sch_path: /foss/designs/Programmable-Instrumentation-Amplifier-IP/designs/libs/tb_analog/tb_cg_ota/tb_cg_ota.sch
**.subckt tb_cg_ota
I0 VDD I_B {ib}
V2 VDD 0 {vdd}
x3 VDD VINP3 OUT3 OUT3 I_B VSS cg_ota
V5 VINP3 VSS {vicm}
C2 OUT3 VSS {cl}
V3 VSS 0 0
**** begin user architecture code


.param temp=27
.param cl=2p
.param ib=1u
.param vdd=1.2
.param vicm=vdd/2
.param vid=0





.lib /foss/designs/IHP-Open-PDK/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /foss/designs/IHP-Open-PDK/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib /foss/designs/IHP-Open-PDK/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /foss/designs/IHP-Open-PDK/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerDIO.lib dio_tt
.lib /foss/designs/IHP-Open-PDK/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerCAP.lib cap_typ
* Comment this line below for Monte-Carlo simulation
* .lib /foss/designs/IHP-Open-PDK/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSCAP.lib moscap_tt
* Comment out this for Monte-Carlo simulation
.lib /foss/designs/IHP-Open-PDK/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSCAP.lib moscap_tt mismatch




.subckt loopgainprobe a b
Ii 0 x DC 0 AC 0
Vi x a DC 0 AC 1
Vnodebuffer b x 0
.ends loopgainprobe

.func tian_loop() {1/(1/(2*(ac1.i(v.x999.Vi)*ac2.v(x999.x)-ac1.v(x999.x)*ac2.i(v.x999.Vi))+ac1.v(x999.x)+ac2.i(v.x999.Vi))-1)}




.control
shell mkdir -p result

* LARGE-SIGNAL STEP RESPONSE (SLEW RATE & PROPAGATION DELAYS)
* Stimulus: Pulse swing 0.2 V to 1.0 V (Delta V = 0.8 V, Vcm = 0.6 V)
alter @v5[pulse] = [ 0.2 1.0 20n 1n 1n 1u 2.5u ]

tran 0.2n 2.5u
run

let v_in  = v(vinp3)
let v_out = v(out3)

* --- Rising Edge Analysis ---
* Input 50% crossing (0.60 V)
meas tran t_in_r50  when v_in=0.60 rise=1

* Output 10% (0.28 V), 50% (0.60 V), and 90% (0.92 V) crossings
meas tran t_out_r10 when v_out=0.28 rise=1
meas tran t_out_r50 when v_out=0.60 rise=1
meas tran t_out_r90 when v_out=0.92 rise=1

* Compute Rise Time, Positive Slew Rate (SR+), and Propagation Delay (tpLH)
let t_rise_ns = (t_out_r90 - t_out_r10) * 1e9
let sr_pos    = (0.92 - 0.28) / (t_out_r90 - t_out_r10) / 1e6
let t_plh_ns  = (t_out_r50 - t_in_r50) * 1e9

* --- Falling Edge Analysis ---
* Input 50% crossing (0.60 V)
meas tran t_in_f50  when v_in=0.60 fall=1

* Output 90% (0.92 V), 50% (0.60 V), and 10% (0.28 V) crossings
meas tran t_out_f90 when v_out=0.92 fall=1
meas tran t_out_f50 when v_out=0.60 fall=1
meas tran t_out_f10 when v_out=0.28 fall=1

* Compute Fall Time, Negative Slew Rate (SR-), and Propagation Delay (tpHL)
let t_fall_ns = (t_out_f10 - t_out_f90) * 1e9
let sr_neg    = (0.92 - 0.28) / (t_out_f10 - t_out_f90) / 1e6
let t_phl_ns  = (t_out_f50 - t_in_f50) * 1e9

* Save output waveforms to the specified rawfile
write ./result/tb_cg_ota_tran_large.raw v_in v_out

* Print execution summary
echo "======================================================="
echo "   OTA LARGE-SIGNAL TRANSIENT SIMULATION RESULTS       "
echo "======================================================="
echo " Positive Slew Rate (SR+)  : " $&sr_pos    " V/us"
echo " Negative Slew Rate (SR-)  : " $&sr_neg    " V/us"
echo " Rise Time 10% - 90% (tr)  : " $&t_rise_ns " ns"
echo " Fall Time 90% - 10% (tf)  : " $&t_fall_ns " ns"
echo " Propagation Delay (tpLH)  : " $&t_plh_ns  " ns"
echo " Propagation Delay (tpHL)  : " $&t_phl_ns  " ns"
echo "======================================================="

* Reset v5 source back to clean DC operating point
alter @v5[pulse] = [ 0.6 0.6 0 0 0 1u 2u ]

plot v_out v_in
.endc

**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/Programmable-Instrumentation-Amplifier-IP/designs/libs/core_analog/coarse_gain/cg_ota.sym #
*+ of pins=6
** sym_path: /foss/designs/Programmable-Instrumentation-Amplifier-IP/designs/libs/core_analog/coarse_gain/cg_ota.sym
** sch_path: /foss/designs/Programmable-Instrumentation-Amplifier-IP/designs/libs/core_analog/coarse_gain/cg_ota.sch
.subckt cg_ota VDD V_inp V_inn V_out I_bias VSS
*.ipin V_inn
*.ipin VDD
*.ipin VSS
*.opin V_out
*.ipin I_bias
*.ipin V_inp
XM1 F1 V_inn net6 VDD sg13_lv_pmos w=26.56u l=2u ng=4 m=1 mm_ok=1
XM2 F2 V_inp net6 VDD sg13_lv_pmos w=26.56u l=2u ng=4 m=1 mm_ok=1
XM3 net5 net5 VDD VDD sg13_lv_pmos w=7.33u l=2u ng=1 m=1 mm_ok=1
XM4 N_A net5 VDD VDD sg13_lv_pmos w=7.33u l=2u ng=1 m=1 mm_ok=1
XM7 F1 V_bn2 VSS VSS sg13_lv_nmos w=9.21u l=2u ng=1 m=1 mm_ok=1
XM8 F2 V_bn2 VSS VSS sg13_lv_nmos w=9.21u l=2u ng=1 m=1 mm_ok=1
XM_tail net6 V_btail VDD VDD sg13_lv_pmos w=7.46u l=2u ng=1 m=8 mm_ok=1
XM_ctrlp N_B V_ctrlp N_A VDD sg13_lv_pmos w=2.20u l=0.50u ng=1 m=1 mm_ok=1
XM_outp V_out N_A VDD VDD sg13_lv_pmos w=22.20u l=0.5u ng=4 m=1 mm_ok=1
XM_ctrln N_A V_ctrln N_B VSS sg13_lv_nmos w=0.84u l=0.5u ng=1 m=1 mm_ok=1
XM_outn V_out N_B VSS VSS sg13_lv_nmos w=8.4u l=0.5u ng=1 m=1 mm_ok=1
XM5 net5 V_bn1 F1 VSS sg13_lv_nmos w=6.41u l=2u ng=1 m=1 mm_ok=1
XM6 N_A V_bn1 F2 VSS sg13_lv_nmos w=6.41u l=2u ng=1 m=1 mm_ok=1
XM_mp1 net1 net1 VDD VDD sg13_lv_pmos w=2.30u l=2u ng=1 m=1 mm_ok=1
XM_mn1 net1 I_bias VSS VSS sg13_lv_nmos w=0.87u l=2u ng=1 m=1 mm_ok=1
XM_refn I_bias I_bias VSS VSS sg13_lv_nmos w=0.87u l=2u ng=1 m=1 mm_ok=1
XM_mp2 V_bn1 net1 VDD VDD sg13_lv_pmos w=11.50u l=2u ng=2 m=1 mm_ok=1
XM_mp3 V_bn2 net1 VDD VDD sg13_lv_pmos w=23u l=2u ng=4 m=1 mm_ok=1
XM_bn1 V_bn1 V_bn1 net2 VSS sg13_lv_nmos w=1.60u l=2u ng=1 m=1 mm_ok=1
XM_bn2 V_bn2 V_bn2 VSS VSS sg13_lv_nmos w=9.21u l=2u ng=1 m=1 mm_ok=1
XM_mn2 V_btail I_bias VSS VSS sg13_lv_nmos w=6u l=2u ng=1 m=1 mm_ok=1
XM_rep_tail V_btail V_btail VDD VDD sg13_lv_pmos w=7.46u l=2u ng=1 m=8 mm_ok=1
XM_mn4 N_B I_bias VSS VSS sg13_lv_nmos w=2.82u l=2u ng=1 m=1 mm_ok=1
XC1 F2 V_out cap_cmomf w=26.48e-6 l=26.48e-6 mmin=1 mmax=4 subblock=0 m=1 mm_ok=1
XC2 N_A V_out cap_cmomf w=22.07e-6 l=22.07e-6 mmin=1 mmax=4 subblock=0 m=1 mm_ok=1
XR1 net2 VSS VSS rhigh w=0.5e-6 l=17e-6 m=1 b=0 mm_ok=1
XM_mp4 V_ctrln net1 VDD VDD sg13_lv_pmos w=3.73u l=2u ng=1 m=1 mm_ok=1
XM_rep_ctrln V_ctrln V_ctrln net3 VSS sg13_lv_nmos w=0.84u l=0.5u ng=1 m=1 mm_ok=1
XM_rep_outn net3 net3 VSS VSS sg13_lv_nmos w=2.10u l=0.5u ng=1 m=1 mm_ok=1
XM_mn3 V_ctrlp I_bias VSS VSS sg13_lv_nmos w=1.41u l=2u ng=1 m=1 mm_ok=1
XM_rep_outp net4 net4 VDD VDD sg13_lv_pmos w=5.55u l=0.5u ng=1 m=1 mm_ok=1
XM_rep_ctrlp V_ctrlp V_ctrlp net4 VDD sg13_lv_pmos w=2.20u l=0.50u ng=1 m=1 mm_ok=1
XM_mp5 N_A net1 VDD VDD sg13_lv_pmos w=7.46u l=2u ng=1 m=1 mm_ok=1
.ends

.GLOBAL VDD
.end
